### PR TITLE
feat(GreensOpenProblems): 14

### LINKED ISSUE #1549: Green's Open Problems #14
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.2 Problem 14

(Solved) Define the 2-colour van der Waerden numbers $W(k, r)$ to be the least quantities such that if $\\{1, ..., W(k, r)\\}$ is coloured red and blue then there is either a red $k$-term progression or a blue $r$-term progression. Is $W(k, r)$ a polynomial in $r$, for fixed $k$? Is $W(3, r) ≪ r^2$?

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jeangud**
# Description
We define the 2-colour van der Waerden numbers $W(k, r)$ to be the least quantities such that if $\{1, . . . , W(k, r)\}$ is coloured red and blue then there is either a red $k$-term progression or a blue $r$-term progression.

1) Is $W(k, r)$ a polynomial in $r$, for fixed $k$?
2) Is $W(3, r) \ll r^2$?

- Closes #1549 
- Literature presents a good amount of known values, and existing lower/upper bounds, which I tried to include.

# Testing
- Builds successfully
```shell
$ lake build FormalConjectures/GreensOpenProblems/14.lean 
Build completed successfully.
```

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 1]
```diff
@@ -0,0 +1,193 @@
...
+/--
+It remains an interesting open problem to actually write down a colouring showing (say)
+$W(3, r) \ge 2r^2$ for some $r$. [Gr24]
+-/
+@[category research open, AMS 11]
+theorem green_14_variant_2r2 : answer(sorry) ↔ ∃ r, W 3 r ≥ 2 * r^2 := by
+  sorry
+
+-- Known exact values for `W(3,r)` from [AKS14].
+@[simp] axiom W_3_3 : W 3 3 = 9
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/14.lean]: Looking for advice here if there is a more elegant way to somehow leverage these known values. Maybe to check our implementation of $W(k,r)$, or even to validate the bounds on small values? 👀 

Same question for the conjectured fixed bounds below.

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 2]
```diff
@@ -0,0 +1,195 @@
...
+/--
+Is $W(3, r) \ll r^2$?
+-/
+@[category research solved, AMS 11]
+theorem green_14_quadratic :
+    answer(False) ↔ (fun r => ((W 3 r) : ℝ)) =O[atTop] (fun r => (r : ℝ) ^ 2) := by
+    -- [Gr21] proves a superpolynomial lower bound $W(3, r) \gg \exp(c(\log r)^{4/3-o(1)})$.
+  sorry
+
+/--
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/14.lean]: In case they are useful, anything below this are some extra bounds anecdotally mentioned by Green and the literature.

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 3]
```diff
@@ -0,0 +1,195 @@
...
+namespace Green14
+
+/--
+The set of natural numbers $N$ such that any 2-coloring of $[N]$ contains a monochromatic
+arithmetic progression of length $k$ (color 0) or length $r$ (color 1).
+-/
+def mixed_monoAP_guarantee_set (k r : ℕ) : Set ℕ :=
+  { N | ∀ coloring : ℕ → Fin 2,
+    (∃ s : Set ℕ, s ⊆ Finset.Icc 1 N ∧ s.IsAPOfLength k ∧ ∀ x ∈ s, coloring x = 0) ∨
+    (∃ s : Set ℕ, s ⊆ Finset.Icc 1 N ∧ s.IsAPOfLength r ∧ ∀ x ∈ s, coloring x = 1) }
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/14.lean]:
```suggestion
  { N | ∀ coloring : Icc 1 N → Fin 2,
    (∃ s : Finset (Icc 1 N), ({(s' : ℕ) | s' ∈ s}).IsAPOfLength k ∧ ∀ x ∈ s, coloring x = 0) ∨
    (∃ s : Finset (Icc 1 N), ({(s' : ℕ) | s' ∈ s}).IsAPOfLength r ∧ ∀ x ∈ s, coloring x = 1) }
```

after adding `Finset` to the `open`.
I'd prefer not choosing a coloring for values we never use?

Also: the docstring and the code currently disagree: $[N]$ versus `Icc 1 N`.

File: FormalConjectures/GreensOpenProblems/14.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/GreensOpenProblems/14.lean]: I'd just go wtih a theorem of category `test` (not entirely sure if  this is the correct cateogory) for each one?

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 4]
```diff
@@ -0,0 +1,195 @@
...
+    answer(sorry) ↔ ∃ C : ℝ,
+    (fun (r : ℕ) => ((W 3 r) : ℝ)) =O[atTop] (fun r => Real.exp (C * (Real.log r)^C)) := by
+  sorry
+
+/--
+It remains an interesting open problem to actually write down a colouring showing (say)
+$W(3, r) \ge 2r^2$ for some $r$. [Gr24]
+-/
+@[category research open, AMS 11]
+theorem green_14_variant_2r2 : answer(sorry) ↔ ∃ r, W 3 r ≥ 2 * r^2 := by
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/14.lean]: isn't this trivially true for `r = 0`?

**Review by mo271 — COMMENTED** [review]
Thanks! 
A few initial remarks..

File: FormalConjectures/GreensOpenProblems/14.lean (hunk 3 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/14.lean]: Good point, thank you for the commit! Fixed the docstring too

File: FormalConjectures/GreensOpenProblems/14.lean (hunk 1 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/14.lean]: Thank you for the suggestion. That works, I did not see a better theorem category in `Attributes.lean`.

File: FormalConjectures/GreensOpenProblems/14.lean (hunk 4 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/14.lean]: Yes, thank you for catching that. I added a guard $r \geq 3$.

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 5]
```diff
@@ -0,0 +1,228 @@
...
+/--
+It remains an interesting open problem to actually write down a colouring showing (say)
+$W(3, r) \ge 2r^2$ for some $r$. [Gr24]
+-/
+@[category research open, AMS 5 11]
+theorem green_14_variant_2r2 : answer(sorry) ↔ ∃ r, 3 ≤ r ∧ W 3 r ≥ 2 * r^2 := by
+  sorry
+
+-- Known exact values for `W(3,r)` from [AKS14].
+@[category research open, AMS 5 11]
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/14.lean]:
```suggestion
@[category research solved, AMS 5 11]
```

Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/14.lean]: Thank you for catching that, added to the other known bounds too. Keeping conjectured bounds as `open`

**Comment by jeangud** [comment]
@mo271 FYI in case this one got lost in the shuffle. Looks like we might be close to merging it.

**Comment by jeangud** [comment]
@mo271 thank you again for the reviews, anything else you'd like to see on this one?

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 6]
```diff
@@ -0,0 +1,256 @@
...
+
+open Filter Set Topology
+
+namespace Green14
+
+/--
+The set of natural numbers $N$ such that any 2-coloring of ${1, ..., N}$ contains a monochromatic
+arithmetic progression of length $k$ (color 0) or length $r$ (color 1).
+-/
+def mixed_monoAP_guarantee_set (k r : ℕ) : Set ℕ :=
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/14.lean]: nit: here let's follow the [Mathlib naming conventions](https://leanprover-community.github.io/contribute/naming.html)

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 7]
```diff
@@ -0,0 +1,256 @@
...
+    -- We know it is not the case for k=3.
+  sorry
+
+/--
+Is $W(3, r) \ll r^2$?
+-/
+@[category research solved, AMS 5 11]
+theorem green_14_quadratic :
+    answer(False) ↔ (fun r => ((W 3 r) : ℝ)) =O[atTop] (fun r => (r : ℝ) ^ 2) := by
+    -- [Gr21] proves a superpolynomial lower bound $W(3, r) \gg \exp(c(\log r)^{4/3-o(1)})$.
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/14.lean]: Let's include this comment in the theorem docstring!

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 8]
```diff
@@ -0,0 +1,256 @@
...
+    answer(sorry) ↔ ∃ C : ℝ,
+    (fun (r : ℕ) => ((W 3 r) : ℝ)) =O[atTop] (fun r => Real.exp (C * (Real.log r)^C)) := by
+  sorry
+
+/--
+It remains an interesting open problem to actually write down a colouring showing (say)
+$W(3, r) \ge 2r^2$ for some $r$. [Gr24]
+-/
+@[category research open, AMS 5 11]
+theorem green_14_variant_2r2 : answer(sorry) ↔ ∃ r, 3 ≤ r ∧ W 3 r ≥ 2 * r^2 := by
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/14.lean]: Here I'd suggest using `answer(sorry)` as the placeholder for the actual colouring e.g. something like
```
    letI r : ACTUAL_TYPE_HERE := answer(sorry)
    3 ≤ r ∧ W 3 r ≥ 2 * r^2
```

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 9]
```diff
@@ -0,0 +1,256 @@
...
+  sorry
+
+-- Known exact values for `W(3,r)` from [AKS14].
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/14.lean:146]: I think it would be helpful to have docstrings for all the theorems below too (e.g. for the docs and and so on)

**Review by Paul-Lez — APPROVED** [review]
Thanks!

File: FormalConjectures/GreensOpenProblems/14.lean (hunk 7 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/14.lean]: Done! :white_check_mark:

File: FormalConjectures/GreensOpenProblems/14.lean (hunk 6 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/14.lean]: Ah yes, good catch. Done :white_check_mark:

File: FormalConjectures/GreensOpenProblems/14.lean (hunk 9 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/14.lean:146]: I agree, added docstrings for each :white_check_mark:

File: FormalConjectures/GreensOpenProblems/14.lean (hunk 8 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/14.lean]: That's better indeed, $r$ is not the colouring here but I see your point. I have to look into how the colouring would be taken into account and how it relates to our definition of the $W(k,r)$ objects. Looking into it :eyes:

Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/14.lean]: @Paul-Lez thank you for the help on this PR. What do you think of 75c47af?
```lean
/--
It remains an interesting open problem to actually write down a colouring showing (say)
$W(3, r) \ge 2r^2$ for some $r$. [Gr24]
-/
@[category research open, AMS 5 11]
theorem green_14_variant_2r2 :
    -- Provide a pair (r, associated coloring) that avoids the monochromatic APs
    -- To show $W(3, r) > 2r^2 - 1$, we need a coloring of $\{1, \ldots, 2r^2 - 1\}$
    -- that avoids monochromatic APs of length 3 and $r$.
    let ans : Σ r : ℕ, Icc 1 (2 * r^2 - 1) → Fin 2 := answer(sorry)
    let r := ans.1
    let c := ans.2
    3 ≤ r ∧
    ¬ ((∃ s : Finset (Icc 1 (2 * r^2 - 1)), ({(s' : ℕ) | s' ∈ s}).IsAPOfLength 3 ∧ ∀ x ∈ s, c x = 0) ∨
       (∃ s : Finset (Icc 1 (2 * r^2 - 1)), ({(s' : ℕ) | s' ∈ s}).IsAPOfLength r ∧ ∀ x ∈ s, c x = 1)) := by
  sorry
```

- Since we need to consider a fixed/given colouring, it's a bit unfortunate that we cannot reuse our definition of $W(k,r)$
- The colouring depends on $r$ I believe so I let the answer be a pair $\left(r, c(r)\right)$. Other solution might be to assume $r$ is given to the theorem?

**Comment by jeangud** [comment]
@Paul-Lez sorry to bug you again, feels like we are pretty close? :innocent:

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 10]
```diff
@@ -0,0 +1,297 @@
...
+
+/--
+Is $W(k, r)$ a polynomial in $r$, for fixed $k$?
+
+We formulate this as asking if $W(k, r)$ has polynomial growth in $r$.
+We know it is not the case for $k = 3$ [Gr21, p.3].
+-/
+@[category research open, AMS 5 11]
+theorem green_14_polynomial :
+    answer(sorry) ↔ ∀ k ≥ 4, ∃ d : ℕ, (fun r => ((W k r) : ℝ)) =O[atTop] (fun r => (r : ℝ) ^ d) := by
```
Comment (smmercuri) [inline FormalConjectures/GreensOpenProblems/14.lean]:
```suggestion
    answer(sorry) ↔ ∀ k ≥ 4, ∃ d : ℕ, (fun r => (W k r : ℝ)) =O[atTop] fun r => (r : ℝ) ^ d := by
```

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 11]
```diff
@@ -0,0 +1,297 @@
...
+  sorry
+
+/-- We know $W(3, r)$ does not have polynomial growth in $r$ [Gr21, p.3]. -/
+@[category research solved, AMS 5 11]
+theorem green_14_polynomial_k_eq_3 :
+    ¬ ∃ d : ℕ, (fun r => ((W 3 r) : ℝ)) =O[atTop] (fun r => (r : ℝ) ^ d) := by
```
Comment (smmercuri) [inline FormalConjectures/GreensOpenProblems/14.lean]:
```suggestion
    ¬ ∃ d : ℕ, (fun r => (W 3 r): ℝ)) =O[atTop] fun r => (r : ℝ) ^ d := by
```

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 12]
```diff
@@ -0,0 +1,297 @@
...
+  sorry
+
+/--
+Is $W(3, r) \ll r^2$?
+
+[Gr21] proves a superpolynomial lower bound $W(3, r) \gg \exp(c(\log r)^{4/3-o(1)})$.
+-/
+@[category research solved, AMS 5 11]
+theorem green_14_quadratic :
+    answer(False) ↔ (fun r => ((W 3 r) : ℝ)) =O[atTop] (fun r => (r : ℝ) ^ 2) := by
```
Comment (smmercuri) [inline FormalConjectures/GreensOpenProblems/14.lean]:
```suggestion
    answer(False) ↔ (fun r => (W 3 r : ℝ)) =O[atTop] fun r => (r : ℝ) ^ 2 := by
```

File: FormalConjectures/GreensOpenProblems/14.lean [hunk 13]
```diff
@@ -0,0 +1,297 @@
...
+  sorry
+
+/-- [Gr21] proved a lower bound of shape $W(3, r) \gg \exp(c(\log r)^{4/3-o(1)})$. -/
+@[category research solved, AMS 5 11]
+theorem green_14_lower_bound_green :
+    answer(sorry) ↔ ∃ c : ℝ, ∃ (o : ℕ → ℝ) (_ : Tendsto o atTop (𝓝 0)),
+    (fun (r : ℕ) => Real.exp (c * (Real.log r)^(4/3 - o r))) =O[atTop] (fun r => (W 3 r : ℝ)) := by
```
Comment (smmercuri) [inline FormalConjectures/GreensOpenProblems/14.lean]:
```suggestion
    (fun (r : ℕ) => Real.exp (c * (Real.log r)^(4/3 - o r))) =O[atTop] fun r => (W 3 r : ℝ) := by
```

**Review by smmercuri — APPROVED** [review]
Just some minor style comments, mainly you can remove some parens. LGTM otherwise!

**Comment by jeangud** [comment]
Done :white_check_mark: 

@smmercuri thanks a lot for the review on this older PR, much appreciated!

**Comment by mo271** [comment]
Thanks again!
